US07399759B2
2-(5-Acetyl-2-pyridyl)-4H-1,3-benzothiazine-4-one
A mixture of methyl thiosalicylate (0.51 g, 3.0 mmol), 3-acetyl-2-cyanopyridine (0.40 g, 2.7 mmol), triethylamine (0.61 ml, 4.4 mmol) and toluene (2.0 ml) was refluxed for 20 hrs. After cooling, the precipitated crystals were collected by filtration and recrystallized from acetone to give the titled compound (0.30 g, 38%)

reactant | methyl thiosalicylate | 3.0 mmol, 0.51 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 3-acetyl-2-cyanopyridine | 2.7 mmol, 0.40 g | C(C)(=O)C=1C(=NC=CC1)C#N | C8H6N2O
reactant | triethylamine | 4.4 mmol, 0.61 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 2.0 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(5-Acetyl-2-pyridyl)-4H-1,3-benzothiazine-4-one | 0.30 g, 38% | C(C)(=O)C=1C=CC(=NC1)C=1SC2=C(C(N1)=O)C=CC=C2 | C15H10N2O2S
